US07456177B2
Preparation of 11-Allyl-6-hydroxymethyl-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-trien-8-ol
11-Allyl-8-oxo-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene-6-carboxylic acid methyl ester (109 mg, 0.40 mmol) was stirred in ethanol (10 mL) and treated with NaBH4 (15 mg, 0.40 mmol). After 18 h, the reaction mixture was concentrated and treated with 1N HCl (50 mL) with stirring. After 30 min., the aqueous layer was extracted with Et2O (3×50 mL), basified with saturated aqueous Na2CO3 solution and extracted with EtOAc (3×50 mL). The organic layer was washed with saturated aqueous NaHCO3 solution (2×50 mL) and saturated aqueous NaCl solution, dried over MgSO4, filtered and concentrated to give an oil (90 mg, 90%). (TLC 35% EtOAc/hexanes Rf 0.23); 1H NMR (400 MHz, CDCl3) δ 7.27 (dd, J=7.5, 1.5 Hz, 1H), 7.18 (t, J=7.5 Hz, 1H), 7.01 (dd, J=7.5, 1.5 Hz, 1H), 5.62 (m, 1H), 5.27 (t, J=4.0 Hz, 1H), 5.05 (m, 1H), 4.88 (d, J=12.1 Hz, 1H), 4.41 (d, J=12.1 Hz, 1H), 4.27 (OH), 3.72 (OH), 3.31 (ddd, J=12.4, 2.5, 1.7 Hz, 1H), 2.85 (m, 3H), 2.52 (m, 1H), 2.38 (m, 1H), 2.05 (dd, J=11.4, 1.7 Hz, 1H), 1.80 (m, 2H); 13C NMR (100 MHz, CDCl3) δ 143.2, 140.3, 139.1, 134.9, 128.9, 127.7, 127.2, 118.5, 68.7, 64.0, 61.5, 59.9, 55.1, 36.3, 33.3, 32.1; IR (cm−1) 3376, 3071, 2920, 2788, 1642, 1468, 1051, 796; APCl MS m/z 260.2 (M+1)+.

reactant | 11-Allyl-8-oxo-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene-6-carboxylic acid methyl ester | 0.40 mmol, 109 mg | COC(=O)C1=CC=CC=2C3CN(CC(C(C12)=O)C3)CC=C | C17H19NO3
reactant | NaBH4 | 0.40 mmol, 15 mg | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 11-Allyl-6-hydroxymethyl-11-aza-tricyclo[7.3.1.02,7]trideca-2,4,6-trien-8-ol | 90 mg, 90% | C(C=C)N1CC2C(C3=C(C=CC=C3C(C1)C2)CO)O | C16H21NO2
